US05120738
Preparation of N-(6-Oleoylaminohexyl)-3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propanamide
N-(6-Aminohexyl)oleamide (3.81 g) and 2.59 g of 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid were reacted in the same manner as in Example 1 to obtain 2.92 g of the title compound (yield: 47%).

reactant | N-(6-Aminohexyl)oleamide | 3.81 g | NCCCCCCNC(CCCCCCC\C=C/CCCCCCCC)=O | C24H48N2O
reactant | 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid | 2.59 g | CC1(OCC(C(O1)C(=O)NCCC(=O)O)(C)C)C | C12H21NO5
product | N-(6-Oleoylaminohexyl)-3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propanamide | 2.92 g, yield: 47% | C(CCCCCCC\C=C/CCCCCCCC)(=O)NCCCCCCNC(CCNC(=O)C1OC(OCC1(C)C)(C)C)=O | C36H67N3O5
